US07678917B2
In analogy to example 11A (1R,3S,4S)-3-azido-4-hydroxy-cyclopentanecarboxylic acid methyl ester (CAS 213742-85-9) was reacted with 2-(2-bromoethoxy)tetrahydro-2H-pyran to give (3S,4S)-3-azido-4-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-cyclopentanecarboxylic acid methyl ester. Light yellow oil. MS 336.3 ([M+H]+).

reactant | (1R,3S,4S)-3-azido-4-hydroxy-cyclopentanecarboxylic acid methyl ester | COC(=O)[C@@H]1C[C@@H]([C@H](C1)O)N=[N+]=[N-] | C7H11N3O3
reactant | 2-(2-bromoethoxy)tetrahydro-2H-pyran | BrCCOC1OCCCC1 | C7H13BrO2
product | (3S,4S)-3-azido-4-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-cyclopentanecarboxylic acid methyl ester | COC(=O)C1C[C@@H]([C@H](C1)OCCOC1OCCCC1)N=[N+]=[N-] | C14H23N3O5
